US05665718
3.04 g (10.0 mmol) of (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid were suspended in 15 ml of N,N-dimethylformamide and treated portionwise at room temperature with 1.78 g (11.0 mmol) of 1,1'-carbonyldiimidazole. After the CO2 evolution had finished the clear brown solution was stirred at 50° for 30 min., cooled and treated dropwise at a temperature below 25° within about 10 min. with 2.5 ml of conc. ammonia. After stirring for 30 minutes the suspension obtained was evaporated and the residue was triturated with 30 ml of water. The white crystals were filtered off under suction and dried in a vacuum. There were obtained 2.8 g (92%) of (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide of m.p. 251°-253°.

reactant | (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 10.0 mmol, 3.04 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1 | C14H10ClN3O3
reactant | 1,1'-carbonyldiimidazole | 11.0 mmol, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | ammonia | 2.5 ml | N | H3N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 2.8 g, 92% | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)N)CC3)=O)C1 | C14H11ClN4O2
